US07723332B2
According to general procedure C, 4-Bromobenzene sulfonyl chloride (0.40 g, 1.56 mmol) and isobutylamine (0.39 mL, 3.90 mmol) were stirred together with dry dichloromethane (5 mL) for 16 hours. 4-bromo-N-isobutylbenzenesulfonamide (0.12 g, 28%) was provided after purification. MS (ESI) m/z 292.HPLC purity 100.0% at 210-370 nm, 9.4 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromobenzene sulfonyl chloride | 1.56 mmol, 0.40 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | isobutylamine | 3.90 mmol, 0.39 mL | C(C(C)C)N | C4H11N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-bromo-N-isobutylbenzenesulfonamide | 0.12 g, 28% | BrC1=CC=C(C=C1)S(=O)(=O)NCC(C)C | C10H14BrNO2S
